US09447091B2
b) 2-Chloro-5-iodo-3-nitropyridine
To a solution of 5-iodo-3-nitropyridin-2-amine (1.3 g, 4.9 mmol) in concentrated HCl at 0° C. was added sodium nitrite (6.73 g, 97.13 mmol, 20 eq.) stepwise followed by the addition of copper(I) chloride (0.5 g, 4.9 mmol, 1 eq.) and the mixture was stirred at RT for 12 h. The mixture was then poured in to a mixture of ammonium hydroxide and water (1:1) and extracted with ethylacetate (3×150 ml). The combined organic layer was washed with water, aqueous sodium thiosulfate, brine and dried over sodium sulphate. The solvent was distilled off to afford the product in 43% yield (0.6 g).

reactant | 5-iodo-3-nitropyridin-2-amine | 4.9 mmol, 1.3 g | IC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4IN3O2
reactant | sodium nitrite | 97.13 mmol, 6.73 g, 20 eq. | N(=O)[O-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | water | O | H2O
reactant | HCl | Cl | ClH
catalyst | copper(I) chloride | 4.9 mmol, 0.5 g, 1 eq. | [Cu]Cl
product | 2-Chloro-5-iodo-3-nitropyridine | 43% yield | ClC1=NC=C(C=C1[N+](=O)[O-])I | C5H2ClIN2O2
